US04255436
16.5 g. (0.1 mol) of 3-bromo-3-methyl-2-butanone and 11.6 g. (0.12 mol) of potassium rhodanide were refluxed for 1-2 hours in 150 ml. of anhydrous acetone. After cooling, the separated potassium bromide was filtered under suction, back-washed with a small amount of acetone and evaporated to dryness in vacuo at 50° C. The residue was taken up in 200 ml. of ether and washed three times with 100 ml. of water. The ether phase was dried over sodium sulfate and evaporated to dryness in vacuo. The crude product was fractionated on a short Vigreux column to yield 3-methyl-3-thiocyanato-2-butanone, b.p. (0.04 mm), 52° C.

reactant | 3-bromo-3-methyl-2-butanone | 0.1 mol | BrC(C(C)=O)(C)C | C5H9BrO
reactant | potassium rhodanide | 0.12 mol | C(#N)[S-].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 3-methyl-3-thiocyanato-2-butanone | CC(C(C)=O)(C)SC#N | C6H9NOS
